US06544985B2
{4-Chloro-5-dimethylamino-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester (Example J1) and 3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionic acid tert.-butyl ester [CAS-No. 335255-88-4] according to the general procedure M. Obtained as a light yellow solid (427 mg).

reactant | (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)N)=O | C13H20ClN3O2
reactant | 3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CN=C1)=O)=O | C15H17N3O3
product | {4-Chloro-5-dimethylamino-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)NC(CC(C1=CC(=CC=C1)N1N=CN=C1)=O)=O)=O | C24H27ClN6O4
